US09169254B2
A 2 N aqueous NaOH solution (0.47 ml, 0.94 mmol) and di-tert-butyl dicarbonate (223 mg, 1.02 mmol) were sequentially added to a solution of 2-(4-bromo-indol-1-yl)-ethylamine (222 mg, 0.928 mmol) in dioxane (0.47 ml), and the mixture was stirred at room temperature for 19 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (dichloromethane only) to give [2-(4-bromo-indol-1-yl)-ethyl]-carbamic acid tert-butyl ester (292 mg, 93%).

reactant | NaOH | 0.94 mmol, 2 N, 0.47 ml | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 1.02 mmol, 223 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-(4-bromo-indol-1-yl)-ethylamine | 0.928 mmol, 222 mg | BrC1=C2C=CN(C2=CC=C1)CCN | C10H11BrN2
reactant | Water | O | H2O
solvent | dioxane | 0.47 ml | O1CCOCC1 | C4H8O2
product | [2-(4-bromo-indol-1-yl)-ethyl]-carbamic acid tert-butyl ester | 292 mg, 93% | C(C)(C)(C)OC(NCCN1C=CC2=C(C=CC=C12)Br)=O | C15H19BrN2O2
